US04337260
A mixture of 23 g of 5-(3-chloropropyl)-10,11-dihydro-5H-dibenz[b,f]azepine, 15 g of 1,2,3,5,6,7,8,8a-octahydro-2-oxo-imidazo[1,2-a]pyridine-3-spiro-4'-piperidine and 10 g of anhydrous potassium carbonate in 100 ml of ethanol is boiled under reflux for 48 hours. The ethanol is then distilled off under reduced pressure. The residue is added to 80 ml of toluene, and the insoluble matter is filtered off. The filtrate is washed with two 50 ml portions of water, and alcoholic hydrochloric acid is added. The precipitated crystals are collected by filtration and recrystallized from methanol to give 1'-[3-(10,11-dihydro-5H-dibenz[b,f]azepin-5-yl)propyl]-1,2,3,5,6,7,8,8a-octahydro-2-oxo-imidazo[1,2-a]pyridine-3-spiro-4'-piperidine dihydrochloride monohydrate as white crystals, m.p. 258° C., 70% yield.

reactant | 5-(3-chloropropyl)-10,11-dihydro-5H-dibenz[b,f]azepine | 23 g | ClCCCN1C2=C(CCC3=C1C=CC=C3)C=CC=C2 | C17H18ClN
reactant | 1,2,3,5,6,7,8,8a-octahydro-2-oxo-imidazo[1,2-a]pyridine-3-spiro-4'-piperidine | 15 g | O=C1NC2N(CCCC2)C12CCNCC2 | C11H19N3O
reactant | potassium carbonate | 10 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 1'-[3-(10,11-dihydro-5H-dibenz[b,f]azepin-5-yl)propyl]-1,2,3,5,6,7,8,8a-octahydro-2-oxo-imidazo[1,2-a]pyridine-3-spiro-4'-piperidine dihydrochloride monohydrate | 70% yield | O.Cl.Cl.C1=CC=CC=2N(C3=C(CCC21)C=CC=C3)CCCN3CCC2(CC3)C(NC3N2CCCC3)=O | InChI=1S/C28H36N4O.2ClH.H2O/c33-27-28(32-19-6-5-12-26(32)29-27)15-20-30(21-16-28)17-7-18-31-24-10-3-1-8-22(24)13-14-23-9-2-4-11-25(23)31;;;/h1-4,8-11,26H,5-7,12-21H2,(H,29,33);2*1H;1H2
